US09359359B2
To a solution of 1-(4-methoxybenzyl)-3-methyl-7-((5-methylpyridin-2-yl)methyl)-8-(3-(trifluoromethoxy)benzyl)-1H-purine-2,6(3H,7H)-dione (120 mg, 0.212 mmol) in DCM (1.4 mL) was added triflic acid (0.7 mL) and TFA (0.7 mL). The reaction was stirred at room temperature overnight. The mixture was partitioned between ethyl acetate and water. The organic phase was washed with saturated NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated to give crude product, which was purified by silica gel chromatography eluting with petroleum/ethyl acetate (10:1 to 1:1) to give 3-methyl-7-((5-methylpyridin-2-yl)methyl)-8-(3-(trifluoromethoxy)benzyl)-1H-purine-2,6(3H,7H)-dione (60 mg, 63.5% yield) as white solid. LCMS MH+ 446.

reactant | 1-(4-methoxybenzyl)-3-methyl-7-((5-methylpyridin-2-yl)methyl)-8-(3-(trifluoromethoxy)benzyl)-1H-purine-2,6(3H,7H)-dione | 0.212 mmol, 120 mg | COC1=CC=C(CN2C(N(C=3N=C(N(C3C2=O)CC2=NC=C(C=C2)C)CC2=CC(=CC=C2)OC(F)(F)F)C)=O)C=C1 | C29H26F3N5O4
reactant | triflic acid | 0.7 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | TFA | 0.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.4 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-7-((5-methylpyridin-2-yl)methyl)-8-(3-(trifluoromethoxy)benzyl)-1H-purine-2,6(3H,7H)-dione | 60 mg, 63.5% yield | CN1C(NC(C=2N(C(=NC12)CC1=CC(=CC=C1)OC(F)(F)F)CC1=NC=C(C=C1)C)=O)=O | C21H18F3N5O3
